US04287188
A solution of benzonitrile (103 g) in ethylene glycol (310 g) was heated at reflux under substantially anhydrous conditions for 3 days. The reaction mixture was cooled and added to a mixture of ice and water (about 300 ml). The resulting mixture was extracted with ether (3×300 ml) and the combined ether extract back-washed with water (2×300 ml) and then with a saturated sodium chloride solution (300 ml). The ether solution was dried over anhydrous sodium sulfate. The ether was evaporated and the residual oil distilled to give 108 g (65% of theoretical) of ethylene glycol monobenzoate, b.p. 132°-135° C./1.5 mm Hg.

reactant | benzonitrile | 103 g | C(C1=CC=CC=C1)#N | C7H5N
reactant | water | about 300 ml | O | H2O
reactant | ethylene glycol | 310 g | C(CO)O | C2H6O2
product | ethylene glycol monobenzoate | 108 g, 65% | C(C1=CC=CC=C1)(=O)OCCO | C9H10O3
